US07425568B2
2-(2-Phenylindan-5-yloxy)-5-trifluoromethylbenzene-1,3-diamine was prepared as described for 2-(2-phenylchroman-6-yloxy)-5-trifluoromethylbenzene-1,3-diamine in Example 35(b) using 230 mg of 5-(2,6-dinitro-4-trifluoromethylphenoxy)-2-phenylindan. 1H-NMR (300 MHz, d6-DMSO): 7.33-7.27 (m, 4H), 7.22-7.18 (m, 1H), 7.14 (d, 1H, J 8.1 Hz), 6.73-6.69 (m, 2H), 6.31 (s, 2H), 4.98 (s, 4H), 3.64 (k, 1H, J 8.5 Hz), 3.26-3.18 (m, 2H), 2.96-2.86 (m, 2H).

reactant | 2-(2-phenylchroman-6-yloxy)-5-trifluoromethylbenzene-1,3-diamine | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(C=C(C=C1N)C(F)(F)F)N | C22H19F3N2O2
reactant | 5-(2,6-dinitro-4-trifluoromethylphenoxy)-2-phenylindan | 230 mg | [N+](=O)([O-])C1=C(OC=2C=C3CC(CC3=CC2)C2=CC=CC=C2)C(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C22H15F3N2O5
product | 2-(2-Phenylindan-5-yloxy)-5-trifluoromethylbenzene-1,3-diamine | C1(=CC=CC=C1)C1CC2=CC=C(C=C2C1)OC1=C(C=C(C=C1N)C(F)(F)F)N | C22H19F3N2O
